US04509537
The reaction of 2,4-dimethoxyphenyl chloroformate with 1,3-propanediol yields 1-(2,4-dimethoxyphenoxycarbonyloxy)-3-propanol.

reactant | 2,4-dimethoxyphenyl chloroformate | ClC(=O)OC1=C(C=C(C=C1)OC)OC | C9H9ClO4
reactant | 1,3-propanediol | C(CCO)O | C3H8O2
product | 1-(2,4-dimethoxyphenoxycarbonyloxy)-3-propanol | COC1=C(OC(=O)OCCCO)C=CC(=C1)OC | C12H16O6
